US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (2-diethylaminoethyl)-methyl-amide
5-Bromo-1,3-dihydroindol-2-one (212 mg, 1 mmol) was condensed with 5-formyl-1H-pyrrole-2-carboxylic acid (2-diethylaminoethyl)methylamide to give 246 mg (55%) of the title compound.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 1 mmol, 212 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-1H-pyrrole-2-carboxylic acid (2-diethylaminoethyl)methylamide | C(C)N(CCN(C(=O)C=1NC(=CC1)C=O)C)CC | C13H21N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (2-diethylaminoethyl)-methyl-amide | 246 mg, 55% | C(C)N(CCN(C(=O)C=1NC(=CC1)C=C1C(NC2=CC=C(C=C12)Br)=O)C)CC | C21H25BrN4O2
